Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
rash
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
HPI: ___ p/w extensive desquamating rash involving b/l hands and
feet over past month.

Ms. ___ reports that the rash first appeared about a month and
a half ago. She first noted the rash on L thigh as small,
demarcated area that gradually spread over her body in small red
areas. She noted some fevers/chills around the initial time of
presentation, which has resolved. About 1 week ago, she 
worsening
skin sloughing and edema of the hands and feet.  She presented 
to
an outside ED, where she was started on Bactrim (presumably due
to concern for super-infection of rash, but she was unable to
tell me which part was though to be infected); she was still
taking the Bactrim leading up to this admission. For her ongoing
rash, she presented to her PCP's office on day of admission and
was referred to ___ for worsening rash.

Initial vital signs were notable for: 97.8 119 114/99 18 100% RA 


Exam notable for: desquamating rash over palms/soles
Labs were notable for:  
 142 103 6  
 ----------<111  
 4.5 20 0.7  
 11.3>9.1/28.1<375  
 Ca 8.7, Mg 1.7, P 3.3  
 ALT 27, AST 26, AP 70, TBili<0.2, Alb 3.9  
 Serum ASA 4  
 Serum EtOH 67  

Studies performed include:  
CXR: Heart size is normal. The mediastinal and hilar contours 
are
normal. The pulmonary vasculature is normal. Lungs are clear. No
pleural effusion or pneumothorax is seen. There are no acute
osseous abnormalities.  
IMPRESSION:  
No acute cardiopulmonary abnormality.  
Patient was given:  
 ___ 17:37 PO Diazepam - CIWA protocol 10 mg  
 ___ 18:00 PO Ibuprofen 600 mg  
 ___ 18:00 PO OxyCODONE (Immediate Release) 5 mg  
 ___ 18:07 IVF LR ___ Started 100 mL/hr  
 ___ 18:55 IV Magnesium Sulfate (2 gm ordered)  
 ___ 19:27 PO/NG OxyCODONE (Immediate Release) 10 mg  
 Consults: Dermatology  

Vitals on transfer: 99 111/70 18 100% RA  

Upon arrival to the floor, the patient is feeling well overall
but feels tremulous.  She says the rash started on her leg, then
involved small areas of the extremities, and the severe 
hand/foot
symptoms started more recently. She notes that a lot of dead 
skin
sloughed off her hands, which used to look more like her feet do
now. She has not been working for past 6 weeks due to these
symptoms. No med changes preceded onset of rash; no recent
exposures or new sexual partners; her live in friend does not
have similar symptoms. 

When asked about her etoh use, she states she drinks 6 pack 
daily
but has increased her drinking recently in setting of this rash.
Reports h/o tremors with withdrawal, no h/o seizurse. Her last
drink was yesterday. She is somewhat interested in stopping
drinking.

Review of Systems:  
==================  
Complete ROS obtained and is otherwise negative.
 
Past Medical History:
Breast cancer  s/p lumpectomy now undergoing routine 
surveillance
h/o c sections
h/o ankle surgery
Alcohol abuse  
Depression  

 
Social History:
___
Family History:
no ___ diseases or rash.
 
Physical Exam:
Physical Exam:  
==============  
VITALS:  98.4 PO ___ 17 98 RA 
GENERAL: Alert and interactive. In no acute distress.  
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. Sclera
anicteric and without injection. Moist mucous membranes, good
dentition. Oropharynx is clear. No tongue tremor.
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. No JVD.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
No increased work of breathing.  
BACK: No spinous process tenderness. No CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis. bilateral foot edema. 
SKIN: 
-b/l hands s/p skin sloughing now with wrinkled, reddened skin
and some e/o desquamation. 
-b/l feet with hyperkeratotic skin in a moccasin distribution 
-Arms and legs as well as trunk with punctate red papules some
w/overlying hyperkeratotic plaque
-No redness of eyes
-Lips appear dry but no frank involvement
- No oral ulcers
-Linear scab from walking into a car door on L shin
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.  

DISCHARGE PHYSICAL EXAM
VITALS:  ___ 0741 Temp: 98.3 PO BP: 94/59 R Lying HR: 92 
RR:
17 O2 sat: 95% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress. Well
appearing, not diaphoretic
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. Sclera
anicteric and without injection. No scleral icterus. Moist 
mucous
membranes. Oropharynx is clear with no ulcers. No tongue tremor.
NECK: supple 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Chest: several small spider angiomas ~1cm in size overall
anterior chest. Clear to auscultation bilaterally w/appropriate
breath sounds appreciated in all fields. No wheezes, rhonchi or
rales. No increased work of breathing.    
ABDOMEN: soft, NTND, no rebound or guarding. no palpable HSM
EXTREMITIES: No clubbing, cyanosis. bilateral foot edema. 
Back: diffuse papular rash
SKIN: 
-b/l hands s/p skin sloughing now with wrinkled, reddened skin
and some e/o desquamation, erythema with 2+ pitting edema;
thickened and brown nails broken at the tips
-b/l feet with hyperkeratotic skin in a moccasin distribution 
-Arms, legs, back, chest, and abdomen with punctate red papules
some w/overlying hyperkeratotic plaque
-Linear scab from walking into a car door on L shin
-No observed tremors upon extension of b/l UE. 

 
Pertinent Results:
ADMISSION LABS
==============

___ 05:57PM BLOOD WBC-11.3* RBC-2.76* Hgb-9.1* Hct-28.1* 
MCV-102* MCH-33.0* MCHC-32.4 RDW-13.4 RDWSD-50.0* Plt ___
___ 05:57PM BLOOD Neuts-63.3 ___ Monos-10.4 Eos-2.9 
Baso-1.0 Im ___ AbsNeut-7.16* AbsLymp-2.48 AbsMono-1.18* 
AbsEos-0.33 AbsBaso-0.11*
___ 05:57PM BLOOD ___ PTT-27.6 ___
___ 06:45AM BLOOD Ret Aut-4.6* Abs Ret-0.11*
___ 05:57PM BLOOD Glucose-111* UreaN-6 Creat-0.7 Na-142 
K-4.5 Cl-103 HCO3-20* AnGap-19*
___ 05:57PM BLOOD ALT-27 AST-26 AlkPhos-70 TotBili-<0.2
___ 05:57PM BLOOD Albumin-3.9 Calcium-8.7 Phos-3.3 Mg-1.7 
Iron-35

DISCHARGE LABS
=============

___ 06:45AM BLOOD WBC-8.2 RBC-2.48* Hgb-8.2* Hct-25.7* 
MCV-104* MCH-33.1* MCHC-31.9* RDW-13.4 RDWSD-50.3* Plt ___
___ 06:45AM BLOOD Neuts-56.6 ___ Monos-11.2 Eos-4.3 
Baso-1.0 Im ___ AbsNeut-4.64 AbsLymp-2.15 AbsMono-0.92* 
AbsEos-0.35 AbsBaso-0.08
___ 06:45AM BLOOD Plt ___
___ 06:45AM BLOOD Glucose-103* UreaN-10 Creat-0.6 Na-140 
K-4.6 Cl-105 HCO3-22 AnGap-13
___ 06:45AM BLOOD ALT-18 AST-18 LD(LDH)-133 AlkPhos-63 
TotBili-0.2
___ 06:45AM BLOOD Albumin-3.0* Calcium-8.0* Phos-4.2 Mg-1.9

MICROBIOLOGY
==============
______________________________________________________
___ 8:39 am URINE      Source: ___. 

   URINE CULTURE (Pending): 
__________________________________________________________
___ 6:45 am SEROLOGY/BLOOD

   RPR w/check for Prozone (Pending): 
__________________________________________________________
___ 5:55 pm BLOOD CULTURE      #1. 

   Blood Culture, Routine (Pending): 

IMAGING
================
___ (PORTABLE AP) IMPRESSION: 
 No acute cardiopulmonary abnormality.

PERTINENT LABS
==============
___ 05:57PM BLOOD calTIBC-309 VitB12-447 Folate-8 
Ferritn-130 TRF-238
___ 06:45AM BLOOD Hapto-249*
___ 05:57PM BLOOD TSH-2.9
___ 06:45AM BLOOD CRP-13.8*
___ 06:45AM BLOOD Ret Aut-4.6* Abs Ret-0.11*

 
Brief Hospital Course:
___ year old F with h/o depression, alcohol use disorder 
presenting with pruritic rash consistent with chronic plaque 
psoriasis, admitted for alcohol withdrawal.

# Etoh use disorder: Last drink 2 days ago. Blood ETOH level 84 
on admission. Patient received CIWA monitoring with diazepam as 
needed. Patient voiced that she is not yet ready to quit but 
would like resources to help cut down. Social work was consulted 
and provided resources. She was started on daily folate, 
thiamine, multivitamins.

#Rash
#Chronic plaque psoriasis: Rash likely plaque psoriasis. Rash is 
extensive and involves trunk, chest, abdomen, all extremities, 
and pelvic region. Patient was started on 10 day course of 
Bactrim for rash by outpt PCP and completed 5 days however 
currently no indications for systemic treatment with Bactrim per 
dermatology for current episode. Patient started on 
Betamethasone diproprionate 0.05% ointment BID for no more than 
2 weeks, for hands and feet betamethasone missed with urea 10% 
cream. Plan for outpatient derm followup.

#Genital irritation/itching: Bedside pelvic exam positive for 
erythema and plaque lesions at pelvic crest consistent with 
plaque psoriasis. Negative for abnormal vaginal discharge or 
cervical motion tenderness. HIV negative. Urine GC/chlamydia, 
rpr pending at time of discharge. 

#Macrocytic anemia: Likely ___ bone marrow suppression in 
setting of alcohol use. However, history of dark stools raises 
concern for iron deficiency anemia. Likely mixed picture. TSH 
WNL. b12, folate WNL. Iron studies WNL however carrying capacity 
mildly reduced at 10%. Guiac negative. Consider outpatient 
workup with EGD/colonoscopy, MMA and homocysteine levels for 
possible B12 deficiency. 

#cigarette use. Reports using 21 mg daily nicotine patch.
- cont nicotine patch

TRANSITIONAL ISSUES
[] Patient will benefit from further outpatient workup of anemia 
such as MMA, homocysteine levels for possible B12 deficiency and 
diagnostic EGD and colonoscopy.
[] Recommend followup GYN pelvic exam, a more comprehensive STI 
testing.
[] Please follow up urine GC/chlamydia, RPR which were pending 
at time of discharge.
[] Outpatient dermatology followup
[] Patient with CRP elevated to 13, ensure level normalizes with 
resolution of psoriasis. 
[] Continue thiamine for 4 more days (last day ___ as 
prescribed
[] Continue to take the vitamin folate daily, evaluate need for 
continued folate supplementation.
[] Continue to take a daily multivitamin 
[] Please continue to encourage patient to cut down on drinking 
and provide resources for quitting alcohol.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sulfameth/Trimethoprim DS 1 TAB PO BID 
2. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Betamethasone Dipro 0.05% Oint 1 Appl TP BID 
RX *betamethasone dipropionate 0.05 % Apply to affected areas 
twice a day Disp #*45 Gram Gram Refills:*3 
2.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin [Daily-Vite]  1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
4.  Nicotine Patch 21 mg TD DAILY 
RX *nicotine 21 mg/24 hour 1 patch daily Disp #*30 Patch 
Refills:*0 
5.  Thiamine 100 mg PO DAILY Duration: 5 Days 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*4 Tablet Refills:*0 
6.  Ureacin-10 (urea) 10 % topical BID 
RX *urea [Aqua Care] 10 % Mix with betamethasone oitment twice a 
day Disp #*71 Gram Gram Refills:*3 
7.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chronic plaque psoriasis
Alcohol use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted for alcohol withdrawal.
- You had a rash on your body, most severe on your hands and 
feet.

WHAT HAPPENED IN THE HOSPITAL?  
==============================
- You received medications to treat alcohol withdrawal 
("diazepam")  
- We think your rash is due to psoriasis. While you were here 
you were evaluated by our dermatology team.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
-Please follow up with your Primary care doctor. While we did 
not see any abnormalities on our pelvic exam, you are due for 
your annual GYN pelvic exam, and you may benefit from a more 
comprehensive STI testing.
-Please also follow up with your primary care doctor regarding 
your anemia. You may benefit from additional tests for the cause 
of the anemia.
-Please follow up with outpatient dermatology for additional 
treatment options for your plaque psoriasis.
-Please use Betamethasone diproprionate 0.05% ointment BID to 
affected areas for no more than two weeks, avoiding the face, 
axilla and groin
- Mix the betamethasone ointment with urea 10% cream and apply 
to hands and feet. You can wrap hands and feet in saran wrap, 
xeroform gauze, or white cotton gloves and socks to help the 
medication get into your skin. 
-Please continue to take the vitamin thiamine for 4 more days 
(last day ___ as prescribed
-Please continue to take the vitamin folate daily.
-Please continue to take a daily multivitamin 
-We recommend you to cut down on your drinking and quit 
drinking. You were provided with resources by our social worker.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  

 
Followup Instructions:
___